US07132421B2
The 2-bromo-1-(4-chloro-phenyl)-3-cyclopentyl-propan-1-one O-methyl-oxime (1.16 g, 2.901 mmol) was dissolved in a solution of ammonia in methanol (30 mL, ˜7 N). The reaction flask was sealed with a Teflon stopper, and the reaction mixture was stirred at 55–60° C. for 2 d. It was cooled to 0° C. then the stopper was removed. The reaction mixture was concentrated to remove ammonia and methanol. The residue was partitioned between water and diethyl ether. The product was extracted with diethyl ether (2×20 mL). The organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification of the crude residue by flash chromatography (Biotage system, KP-Sil™ 32–63 μm, 60 Å silica gel) eluting with 50–100% ethyl acetate+0.1% triethylamine in hexanes yielded 2-amino-1-(4-chloro-phenyl)-3-cyclopentyl-propan-1-one O-methyl-oxime (423 mg, 45%) as yellow oil.

reactant | 2-bromo-1-(4-chloro-phenyl)-3-cyclopentyl-propan-1-one O-methyl-oxime | 2.901 mmol, 1.16 g | CON=C(C(CC1CCCC1)Br)C1=CC=C(C=C1)Cl | C15H19BrClNO
reactant | ammonia | N | H3N
solvent | methanol | ˜7 N, 30 mL | CO | CH4O
product | 2-amino-1-(4-chloro-phenyl)-3-cyclopentyl-propan-1-one O-methyl-oxime | 423 mg, 45% | CON=C(C(CC1CCCC1)N)C1=CC=C(C=C1)Cl | C15H21ClN2O
